US04006245
A mixture of 4.6 parts of 7-(5-bromopentyloxy)4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester, 2 parts of ethyl 7hydroxychromone-2-carboxylate,1,8 parts of potassium carbonate, a few potassium iodide crystals and 80 parts by volume of dry acetone was refluxed on a steam bath for 20 hr. The cooled mixture was filtered and the filtrate evaporated down to give an oil which when treated with petroleum ether (40°-60°), solidified to give 4.0 parts of crude product. Crystallisation from ethanol gave 2.9 parts of 7-[5-(4-oxo-4H-1-benzopyran-7-yloxy)pentyloxy]-4-oxo-4H-1-benzopyran-2-carboxylic acid; ethyl ester, m.p. 113°-116°.

reactant | 7-(5-bromopentyloxy)4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester | BrCCCCCOC1=CC2=C(C(C=C(O2)C(=O)OCC)=O)C=C1 | C17H19BrO5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 7-[5-(4-oxo-4H-1-benzopyran-7-yloxy)pentyloxy]-4-oxo-4H-1-benzopyran-2-carboxylic acid | O=C1C=COC2=C1C=CC(=C2)OCCCCCOC2=CC1=C(C(C=C(O1)C(=O)O)=O)C=C2 | C24H20O8
